US09193741B2
Synthesis of 1-(4-(5-amino-2-(pyridin-3-yl)thiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-methoxyphenoxy)ethanone
This compound was prepared from 7-(piperazin-1-yl)-2-(pyridin-3-yl)thiazolo[5,4-d]pyrimidin-5-amine using 4-methoxyphenoxyacetic acid in a yield of 52%, according to the procedure for the synthesis of example 50.

reactant | 7-(piperazin-1-yl)-2-(pyridin-3-yl)thiazolo[5,4-d]pyrimidin-5-amine | N1(CCNCC1)C=1C2=C(N=C(N1)N)SC(=N2)C=2C=NC=CC2 | C14H15N7S
reactant | 4-methoxyphenoxyacetic acid | COC1=CC=C(OCC(=O)O)C=C1 | C9H10O4
product | 1-(4-(5-amino-2-(pyridin-3-yl)thiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-methoxyphenoxy)ethanone | yield of 52% | NC=1N=C(C2=C(N1)SC(=N2)C=2C=NC=CC2)N2CCN(CC2)C(COC2=CC=C(C=C2)OC)=O | C23H23N7O3S
